US07071182B2
1-(3-dimethylamino-propyl)-1H-indazol-6-ylamine
A mixture of dimethyl-{3-(6-nitro-indazol-1-yl)-propyl}-amine (0.400 g, 1.61 mmol), iron powder (0.897 g, 16.1 mmol), and ammonium chloride (0.0430 mg, 0.811 mmol) in a 4:1 solution of ethanol/H2O was heated to reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was taken up and stirred in triethylamine/ethyl acetate (1/4, 30 mL) for 15 minutes, filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4) and concentrated under reduced pressure to provide the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.95 (m, J=14.75, 7.63 Hz, 2 H), 2.28 (m, 6 H), 2.38 (t, J=6.95 Hz, 2 H), 4.18 (t, J=6.95 Hz, 2 H), 5.30 (s, 2 H), 6.50 (m, 2 H), 7.35 (m, 1 H), 7.71 (s, 1 H); MS (DCI/NH3) m/z 219 [M+H]+.

reactant | dimethyl-{3-(6-nitro-indazol-1-yl)-propyl}-amine | 1.61 mmol, 0.400 g | CN(CCCN1N=CC2=CC=C(C=C12)[N+](=O)[O-])C | C12H16N4O2
reactant | ammonium chloride | 0.811 mmol, 0.0430 mg | [Cl-].[NH4+]
catalyst | iron | 16.1 mmol, 0.897 g | [Fe] | Fe
solvent | ethanol H2O | C(C)O.O
product | 1-(3-dimethylamino-propyl)-1H-indazol-6-ylamine | CN(CCCN1N=CC2=CC=C(C=C12)N)C | C12H18N4
